US08293909B2
6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carboxamide.
6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl trifluoromethanesulfonate (0.07 g, 0.13 mmol, 1 eq), 4-methyl-N-(1-(pyridin-2-yl)cyclopropyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (0.054 g, 0.14 mmol, 1.1 eq), tetrakistriphenylphosphine palladium (0.0045 g, 0.0039 mmol, 0.03 eq) and cesium carbonate (0.12 g, 0.39 mmol, 3 eq) were dissolved in 1,4-dioxane (10 ml) and water (2 ml). Nitrogen gas was passed through the solution and the reaction was heated at 90° C. for 14 h. The solution was filtered through celite. Water was added to the filtrate which was then extracted with ethyl acetate. The organic layer was concentrated and the residue obtained purified by Preparative HPLC. Yield: 22 mg (26%). 1HNMR (400 MHz, CD3OD): δ 1.12 (broad s, 3H), 1.35 (s, 2H), 1.66 (s, 2H), 2.34 (s, 3H), 2.85 (s, 3H), 3.00-3.32 (br, 3H), 3.51 (br, 2H), 7.13 (m, 1H), 7.24 (m, 2H), 7.46 (m, 2H), 7.68 (m, 1H), 7.97 (m, 4H), 8.0 (s, 1H), 8.41-8.42 (d, J=4 Hz, 1H), 8.92 (s, 1H). LCMS: (ES+) m/z=641.2 (M+H) Method: Column-Ascentis Express C18 (5×2.1 mm-2.7 μm); Mphase A: 2% MeCN-98% H2O-10 mM NH4COOH; Mphase B: 98% MeCN-2% H2O-10 mM NH4COOH Flow: 1 mL/Min; RT min: 1.796; Wavelength: 220 nm. HPLC Method: SUNFIRE C18 (4.6×150) mm, 3.5 micron; Buffer: 0.05% TFA in water pH 2.5; Mobile Phase A: Buffer: MeCN (95:5); Mobile Phase B: MeCN: Buffer (95:5); FLOW: 1 ml/min; Wavelength: 254 nm, RT min: 8.675; Purity: 96.6%.

reactant | 6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl trifluoromethanesulfonate | 0.13 mmol, 0.07 g, 1 eq | FC(S(=O)(=O)OC1=CC=2N(C=C1N(S(=O)(=O)C)CC)N=C(C2C(NC)=O)C2=CC=C(C=C2)F)(F)F | C19H18F4N4O6S2
reactant | 4-methyl-N-(1-(pyridin-2-yl)cyclopropyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.14 mmol, 0.054 g, 1.1 eq | CC1=C(C=C(C(=O)NC2(CC2)C2=NC=CC=C2)C=C1)B1OC(C(O1)(C)C)(C)C | C22H27BN2O3
reactant | cesium carbonate | 0.39 mmol, 0.12 g, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
product | 6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carboxamide | C(C)N(S(=O)(=O)C)C=1C(=CC=2N(C1)N=C(C2C(=O)NC)C2=CC=C(C=C2)F)C2=C(C=CC(=C2)C(NC2(CC2)C2=NC=CC=C2)=O)C | C34H33FN6O4S
